US09399639B2
Step 3) (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl dihydrogen phosphate
To a solution of di-tert-butyl((5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propyl sulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl) phosphate (1 g, 1.4 mmol) in DCM (25 mL) was added TFA (1.6 mL, 2.4 g, 21 mmol). The reaction was stirred at rt for 2 h, and then concentrated in vacuo. The residue was washed with 20 mL of EtOAc to give the title compound as a white solid (0.56 g, 66.5%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | di-tert-butyl((5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propyl sulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl) phosphate | 1.4 mmol, 1 g | P(=O)(OC(N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(C(C)(C)C)C(C)(C)C)([O-])[O-]
reactant | TFA | 21 mmol, 1.6 mL, 2.4 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl dihydrogen phosphate | 0.56 g, 66.5% | P(=O)(OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(O)O | C24H21ClF2N3O7PS
